US08119666B2
A. 3-Methanesulfonyl benzyl alcohol
To a solution of 3-(methylsulfonyl)benzoic acid (1.2 g, 6.0 mmol) in THF (30 mL) at 0° C., is added equimolar amounts of borane (6.0 mL of a 1.0 M solution in THF) and boron trifluoride diethyl etherate (0.8 mL, 6.0 mmol). The reaction is allowed to warm to ambient temperature overnight, and then quenched by pouring into a mixture of ice and solid NaHCO3. Following extraction with EtOAc, the organic layer is washed with brine and dried over Na2SO4. Removal of solvent affords the product as a colorless oil: MS (M+NH4)+=204.

reactant | 3-(methylsulfonyl)benzoic acid | 6.0 mmol, 1.2 g | CS(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C8H8O4S
reactant | borane | B | BH3
reactant | boron trifluoride diethyl etherate | 6.0 mmol, 0.8 mL | B(F)(F)F.CCOCC
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 3-Methanesulfonyl benzyl alcohol | CS(=O)(=O)C=1C=C(CO)C=CC1 | C8H10O3S
